US04593102
3-(Phenylsulfonyl)-1-pyrrolidinecarboxylic acid phenyl ester
A solution of 95.23 g (0.354 mole) of 1-benzyl-3-(phenylthio)pyrrolidine and 64 g (0.409 mole) of phenyl chloroformate in methylene chloride was stirred at room temperature for several hours. Excess isopropyl ether was added and the precipitate which formed was filtered off and discarded. The filtrate was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was dissolved in methylene chloride and 175 g of 80% (0.814 mole) m-chloroperoxybenzoic acid was added. The solution was stirred overnight at room temperature. An aqueous solution of sodium bisulfite was added and the mixture was stirred for several hours and the phases separated. The methylene chloride phase was extracted with dilute aqueous sulfuric acid followed with dilute aqueous sodium hydroxide, the aqueous phases being discarded. The methylene chloride phase was dried over magnesium sulfate and the solvent removed in vacuo to give an oil residue. The oil crystallized from a mixture of methylene chloride and diethyl ether to give 89.26 g (76.2%) white crystals, m.p. 84°-85° C.

reactant | 1-benzyl-3-(phenylthio)pyrrolidine | 0.354 mole, 95.23 g | C(C1=CC=CC=C1)N1CC(CC1)SC1=CC=CC=C1 | C17H19NS
reactant | phenyl chloroformate | 0.409 mole, 64 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | m-chloroperoxybenzoic acid | 0.814 mole | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(Phenylsulfonyl)-1-pyrrolidinecarboxylic acid phenyl ester | 89.26 g, 76.2% | C1(=CC=CC=C1)OC(=O)N1CC(CC1)S(=O)(=O)C1=CC=CC=C1 | C17H17NO4S
